US08309725B2
Preparation of ethyl{(4aRS,8SR,8aRS)-1-[2-(3,4-dichlorophenyl)acetyl]-8-(pyrrolidin-1-yl)-perhydroquinoxalin-4-yl}carboxylate
2-(3,4-Dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one (104.9 mg, 0.26 mmol) was dissolved in absolute CH2Cl2 (13 ml) under N2 and ethyl chloroformate (34.5 mg, 0.32 mmol) was added dropwise. The solution was stirred at room temperature overnight, and then evaporated in vacuo. The residue was purified by flash chromatography (Ø 2 cm, CH2Cl2/MeOH/NH3 9.5:0.5:0.05, l=18 cm, V=5 ml). A yellow resin was obtained.

reactant | 2-(3,4-Dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one | 0.26 mmol, 104.9 mg | ClC=1C=C(C=CC1Cl)CC(=O)N1CCNC2CCCC(C12)N1CCCC1 | C20H27Cl2N3O
reactant | ethyl chloroformate | 0.32 mmol, 34.5 mg | ClC(=O)OCC | C3H5ClO2
solvent | CH2Cl2 | 13 ml | C(Cl)Cl | CH2Cl2
product | ethyl{(4aRS,8SR,8aRS)-1-[2-(3,4-dichlorophenyl)acetyl]-8-(pyrrolidin-1-yl)-perhydroquinoxalin-4-yl}carboxylate | C(C)OC(=O)N1CCN(C2C(CCCC12)N1CCCC1)C(CC1=CC(=C(C=C1)Cl)Cl)=O | C23H31Cl2N3O3
